* Skywater PDK Simple Inverter Testbench
* Geometric Formulas:
* as = W * 2 * L
* ad = W * 2 * L
* ps = 2 * (W + 2 * L)
* pd = 2 * (W + 2 * L)
.lib /usr/local/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.subckt not1 a vdd vss z
xm01 z a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=0.99 as=0.26235 ad=0.26235 ps=2.51 pd=2.51
xm02 z a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=0.495 as=0.1311175 ad=0.131175 ps=1.52 pd=1.52
c3 a vss 0.385f
c2 z vss 0.576f
.ends

* the voltage source:
Vdd vdd gnd DC 1.8
Xnot1 in vdd gnd out not1

* dc analysis
V1 in 0 DC 0
.dc V1 0 1.8 0.01

.control
run
plot V(in) V(out)
let slope=deriv(V(out))
plot slope
.endc
.end
